US07943669B2
Step A: {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
The title product was prepared from [4-(3-Bromo-5-isobutoxy-benzylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (300 mg; 0.64 mmol) and 4-prop-2-ynyl-morpholine (221 mg; 2.6 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 140 mg (44%). HPLC-MS: m/z: 511.9 (M)+; Rt: 2.00 min.

reactant | [4-(3-Bromo-5-isobutoxy-benzylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.64 mmol, 300 mg | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)OCC(C)C)Br)C)=O | C22H27BrO4S
reactant | 4-prop-2-ynyl-morpholine | 2.6 mmol, 221 mg | C(C#C)N1CCOCC1 | C7H11NO
reactant | {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC(C)C)C)=O | C29H37NO5S
